datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1cccnc1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1cccnc1)[H:20] 10=20;20,21=21",
"Cc1cc(/N=N/c2ccc(S(N)(=O)=O)cc2)cc(C(=O)[O:21][H:20])c1O.OCc1nc2cc(Cl)ccc2[n-:10]1>>Cc1cc(/N=N/c2ccc(S(N)(=O)=O)cc2)cc(C(=O)[O-:21])c1O.OCc1nc2cc(Cl)ccc2[n:10]1[H:20] 10=20;20,21=21",
"C(=C/c1ccccc1)\C=N\[O-:10].COC(=O)c1cccc([N:21](C=S)[H:20])c1>>C(=C/c1ccccc1)\C=N\[O:10][H:20].COC(=O)c1cccc([N-:21]C=S)c1 10=20;20,21=21",
"CC/C(N=O)=N/[O-:10].CCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20]>>CC/C(N=O)=N/[O:10][H:20].CCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21] 10=20;20,21=21",
"CN(CCC[NH3+])CCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(CCC[NH3+])CCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)C(C(=O)O)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)C(C(=O)O)[NH2+:10][H:20] 10=20;20,21=21",
"COC(=O)c1cc(O)c(O)c([O-:10])c1C[NH+](C)C.c1ccc(CO[NH2+:21][H:20])cc1>>COC(=O)c1cc(O)c(O)c([O:10][H:20])c1C[NH+](C)C.c1ccc(CO[NH2:21])cc1 10=20;20,21=21",
"Cc1ccc(O)c2c1ccc[n:10]2.Cc1ccc([O:21][H:20])cc1>>Cc1ccc(O)c2c1ccc[n+:10]2[H:20].Cc1ccc([O-:21])cc1 10=20;20,21=21",
"CN(c1ccccc1)C([O-])[OH:10].[NH3+]C(CCC(=O)O)C(=O)[O:21][H:20]>>CN(c1ccccc1)C([O-])[OH+:10][H:20].[NH3+]C(CCC(=O)O)C(=O)[O-:21] 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc(CC2CCC[NH:10]2)cc1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc(CC2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CC(=O)[C@@H]1C[C@H](C(=O)[O:21][H:20])C1(C)C.NC(=O)C=C(O)c1cc[n:10]cc1>>CC(=O)[C@@H]1C[C@H](C(=O)[O-:21])C1(C)C.NC(=O)C=C(O)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC[N:10]1CCCC1CNC(=O)c1c([O-])c(Br)cc(Br)c1OC.O=[N+]([O-])c1ccc(S(=O)(=O)[O:21][H:20])cc1>>CC[N+:10]1([H:20])CCCC1CNC(=O)c1c([O-])c(Br)cc(Br)c1OC.O=[N+]([O-])c1ccc(S(=O)(=O)[O-:21])cc1 10=20;20,21=21",
"Clc1ccnc(-c2cccc[n:10]2)c1.OCC[N+:21](CCO)(CCc1nnn[nH]1)[H:20]>>Clc1ccnc(-c2cccc[n+:10]2[H:20])c1.OCC[N:21](CCO)CCc1nnn[nH]1 10=20;20,21=21",
"Cc1n[n:10]c2c(c1C)CCCC2.c1ncc2c(n1)nn[n:21]2[H:20]>>Cc1n[n+:10]([H:20])c2c(c1C)CCCC2.c1ncc2c(n1)nn[n-:21]2 10=20;20,21=21",
"CCCCCCCCCCCC[NH2:10].S=C1C=C(c2ccc([O:21][H:20])cc2)SS1>>CCCCCCCCCCCC[NH2+:10][H:20].S=C1C=C(c2ccc([O-:21])cc2)SS1 10=20;20,21=21",
"Nc1sc(Sc2ccccc2)c[n+:21]1[H:20].O=C(O)[C@@H]1CC[C@@H](C(=O)[O-:10])[Se]1>>Nc1sc(Sc2ccccc2)c[n:21]1.O=C(O)[C@@H]1CC[C@@H](C(=O)[O:10][H:20])[Se]1 10=20;20,21=21",
"Cc1cc(CN)c(O)c(C[NH2:10])c1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1cc(CN)c(O)c(C[NH2+:10][H:20])c1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[N+](CC)(CC)[O-:10].NC(=O)c1cc[n+:21]([H:20])cc1>>CC[N+](CC)(CC)[O:10][H:20].NC(=O)c1cc[n:21]cc1 10=20;20,21=21",
"CCC(=O)O[C@@]1(c2ccccc2)CC[N+:21](C)([H:20])C[C@H]1C.Cc1c(C)c([O-:10])c(C)c(C)c1O>>CCC(=O)O[C@@]1(c2ccccc2)CC[N:21](C)C[C@H]1C.Cc1c(C)c([O:10][H:20])c(C)c(C)c1O 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccccc12.Cc1n[nH]c2cc([NH2+:21][H:20])ccc12>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccccc12.Cc1n[nH]c2cc([NH2:21])ccc12 10=20;20,21=21",
"C=C(C(=O)O[C@H]1C[C@@H]2[C@@H]3O[C@@H]3[C@H](C1)[N+:21]2(C)[H:20])c1ccccc1.Cc1cnc2c([O-:10])cccc2c1>>C=C(C(=O)O[C@H]1C[C@@H]2[C@@H]3O[C@@H]3[C@H](C1)[N:21]2C)c1ccccc1.Cc1cnc2c([O:10][H:20])cccc2c1 10=20;20,21=21",
"CC(=O)N1CCCC1C(=O)[O:21][H:20].CN(C)c1ncc2[nH]c[n:10]c2n1>>CC(=O)N1CCCC1C(=O)[O-:21].CN(C)c1ncc2[nH]c[n+:10]([H:20])c2n1 10=20;20,21=21",
"CCOC(=O)CCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCOC(=O)CCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC(C)c1ccc[n:10]c1.COCc1[nH]cc(C)[n+:21]1[H:20]>>CC(C)c1ccc[n+:10]([H:20])c1.COCc1[nH]cc(C)[n:21]1 10=20;20,21=21",
"CCCCN(C(=O)c1ccc([O:21][H:20])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.CCOCCn1c(CN2CCC[NH+](CCCCn3cc(C(=O)[O-])cn3)CC2)[n:10]c2ccccc21>>CCCCN(C(=O)c1ccc([O-:21])cc1)c1ccc(/N=N/c2ccc3c(c2)OCCOCCOCCOCCOCCO3)cc1.CCOCCn1c(CN2CCC[NH+](CCCCn3cc(C(=O)[O-])cn3)CC2)[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"CC[NH+](CC)CCOCC[N:10](C)C.[O-]c1ccc([OH+:21][H:20])c2ccccc12>>CC[NH+](CC)CCOCC[N+:10](C)(C)[H:20].[O-]c1ccc([OH:21])c2ccccc12 10=20;20,21=21",
"CC1=NCCc2c1[n-:10]c1ccc([N+](=O)[O-])cc21.O=C(CBr)[O:21][H:20]>>CC1=NCCc2c1[n:10]([H:20])c1ccc([N+](=O)[O-])cc21.O=C(CBr)[O-:21] 10=20;20,21=21",
"CC(C)(C)CC#CC(=O)[O-:10].O=C1NC(=S)c2[nH]c[n+:21]([H:20])c2N1>>CC(C)(C)CC#CC(=O)[O:10][H:20].O=C1NC(=S)c2[nH]c[n:21]c2N1 10=20;20,21=21",
"CNCC(O)c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CNCC(O)c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#CCC[N:10](C)C.N[N:21](C(=O)C(F)F)[H:20]>>C#CCC[N+:10](C)(C)[H:20].N[N-:21]C(=O)C(F)F 10=20;20,21=21",
